US06172099B2
Synthesis of 2-benzyloxy-5-acetylbenzenesulfonyl chloride
1-(3-amino-4-benzyloxyphenyl)ethanone {2.41 g, prepared by the method reported by A. A. Larsen et al in J. Med. Chem., 10, 462-472 (1967)} was dissolved in acetic acid (5 ml) and thereto were added 5 ml of concentrated hydrochloric acid. Thereto was added an aqueopus solution (7 ml) of sodium nitrite (1.0 g) with agitation at −10° C. over a period of 50 minutes. The resulting mixture was agitated for further 28 minutes with ice-cooling, whereupon a solution of thionyl chloride (3.5 ml) in acetic acid (6.5 ml) and an aqueous solution (3 ml) of cupric chloride dihydrate (720 mg) were added thereto succeedingly, followed by agitation for 6 hours while getting the temperature thereof back to room temperature. The deposited precipitate was collected by filtration and dissolved in chloroform and the resulting solution was washed with water and dried, before it was concentrated to a volume of 50 ml under a reduced pressure to prepare a chloroform solution of 2-benzyloxy-5-acetyl-benzenesulfonyl chloride.

reactant | 1-(3-amino-4-benzyloxyphenyl)ethanone | 2.41 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)C(C)=O | C15H15NO2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium nitrite | 7 ml, 1.0 g | N(=O)[O-].[Na+]
reactant | thionyl chloride | 3.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6.5 ml | C(C)(=O)O | C2H4O2
product | 2-benzyloxy-5-acetylbenzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C15H13ClO4S
